US06248739B1
N-(4-Chlorobenzyl)-6-(3-hydroxypropyl)-1-methyl-4-oxo-1,4-dihydro-3-quinolinecarboxamide
A mixture of 0.50 g of N-(4-chlorobenzyl)-6-(3-hydroxy-1-propynyl)-1-methyl-4-oxo-1,4-dihydro-3-quinolinecarboxamide from Example No. 31 and 50 mg of 5% platinum on carbon catalyst in 20 mL of 1:1 THF-methanol is stirred under 1 atm hydrogen for 3 h, then filtered through diatomaceous earth. The filtrate is concentrated under reduced pressure and the residual solid flash chromatographed on silica gel using 4-5% methanol in dichloromethane to afford 0.45 g of the title compound as a yellow solid. Further purification is achieved by recrystallization of the solid from 15 mL of acetonitrile.

reactant | N-(4-chlorobenzyl)-6-(3-hydroxy-1-propynyl)-1-methyl-4-oxo-1,4-dihydro-3-quinolinecarboxamide | 0.50 g | ClC1=CC=C(CNC(=O)C2=CN(C3=CC=C(C=C3C2=O)C#CCO)C)C=C1 | C21H17ClN2O3
reactant | hydrogen | [H][H] | H2
catalyst | platinum on carbon | 50 mg | [Pt] | Pt
solvent | THF methanol | 20 mL | C1CCOC1.CO
product | N-(4-Chlorobenzyl)-6-(3-hydroxypropyl)-1-methyl-4-oxo-1,4-dihydro-3-quinolinecarboxamide | 0.45 g | ClC1=CC=C(CNC(=O)C2=CN(C3=CC=C(C=C3C2=O)CCCO)C)C=C1 | C21H21ClN2O3
